US09233961B2
To a suspension of 6-bromo-2-(2-chloro-5-nitrophenyl)-1H-imidazo[4,5-b]pyridine I-2a (18 g, 50.91 mmol, 1.00 equiv) in ethanol (200 mL) was added SnCl2.2H2O (17.3 g, 76.55 mmol, 1.50 equiv) and heated to reflux overnight. The resulting mixture was concentrated under vacuum and the residue was diluted with 200 mL of H2O. The pH value of the mixture was adjusted to 8 with sodium carbonate (sat.). A filtration was performed and the solids were applied on a silica gel column and eluted with ethyl acetate/PE (1/1) to give 12 g (73%) of 3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chloroaniline (I-2b) as a yellow solid. 1H-NMR (DMSO, 400 MHz): 13.00-13.53 (m, 1H), 8.46 (s, 1H), 8.30 (brs, 1H), 7.26 (d, J=8.4 Hz, 1H), 7.05 (brs, 1H), 6.76 (dd, J=8.4, 2.8 Hz, 1H), 5.57 (brs, 2H). MS M/Z=325 (M+1).

reactant | 6-bromo-2-(2-chloro-5-nitrophenyl)-1H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N=C(N2)C2=C(C=CC(=C2)[N+](=O)[O-])Cl | C12H6BrClN4O2
reactant | SnCl2.2H2O | 76.55 mmol, 17.3 g, 1.50 equiv | O.O.Cl[Sn]Cl
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chloroaniline | 12 g, 73% | BrC=1C=C2C(=NC1)N=C(N2)C=2C=C(N)C=CC2Cl | C12H8BrClN4
